US09260451B2
Production of 3-(phenylselenenyl)benzo[b]thiophene (Compound 3-7)
Except that 3-(phenylsulfenyl)-2-trimethylsilylnaphtho[2,3-b]thiophene was replaced with 3-(phenylselenenyl)-2-trimethylsilylbenzo[b]thiophene, the reaction was implemented in the same way as in Example 8. Purification was implemented by column chromatography (silica gel, CHCl3, Rf: 0.9), so that a white solid was quantitatively produced.

reactant | 3-(phenylsulfenyl)-2-trimethylsilylnaphtho[2,3-b]thiophene | C1(=CC=CC=C1)SC=1C2=C(SC1[Si](C)(C)C)C=C1C=CC=CC1=C2 | C21H20S2Si
reactant | 3-(phenylselenenyl)-2-trimethylsilylbenzo[b]thiophene | C1(=CC=CC=C1)[Se]C=1C2=C(SC1[Si](C)(C)C)C=CC=C2 | C17H18SSeSi
product | 3-(phenylselenenyl)benzo[b]thiophene | C1(=CC=CC=C1)[Se]C=1C2=C(SC1)C=CC=C2 | C14H10SSe
